US08183239B2
{4-[2-Chloro-4-(2-methyl-benzoylamino)-phenyl]-piperazin-1-yl}-phenyl-acetic acid methyl ester
To a mixture of [4-(4-amino-2-chloro-phenyl)-piperazin-1-yl]-phenyl-acetic acid methyl ester (25 mg, 0.07 mmol), 2-methyl-benzoic acid (19 mg, 0.14 mmol), EDC (27 mg, 0.14 mmol), and HOBt (19 mg, 0.14 mmol) in DCM (5 mL) was added N-methylmorpholine (77 μL, 0.70 mmol). After 16 h, the mixture was diluted with satd. aq. NaHCO3 (10 mL) and extracted with DCM (75 mL). The organic fraction was washed with brine, dried (Na2SO4), and concentrated. The residue was purified by SiO2 column chromatography to provide the title compound (16 mg, 46%). MS (ESI): mass calcd. for C27H28ClN3O3, 477.18. m/z found, 478.4 [M+H]+. 1H NMR (CDCl3): 7.76-7.60 (m, 1H), 7.51-7.23 (m, 8H), 7.22-7.15 (m, 2H), 6.97 (d, J=8.7, 1H), 3.66 (s, 3H), 3.15-2.93 (m, 5H), 2.85-2.49 (m, 4H), 2.42 (s, 3H).

reactant | [4-(4-amino-2-chloro-phenyl)-piperazin-1-yl]-phenyl-acetic acid methyl ester | 0.07 mmol, 25 mg | COC(C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=C(C=C1)N)Cl)=O | C19H22ClN3O2
reactant | 2-methyl-benzoic acid | 0.14 mmol, 19 mg | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | EDC | 0.14 mmol, 27 mg
reactant | HOBt | 0.14 mmol, 19 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.70 mmol, 77 μL | CN1CCOCC1 | C5H11NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | {4-[2-Chloro-4-(2-methyl-benzoylamino)-phenyl]-piperazin-1-yl}-phenyl-acetic acid methyl ester | 16 mg, 46% | COC(C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=C(C=C1)NC(C1=C(C=CC=C1)C)=O)Cl)=O | C27H28ClN3O3
